US07855294B2
3) 4-(2-Chlorophenyl)-4-fluoropiperidine
1.53 mL of trimethylchlorosilane and 1.82 g of sodium iodide were added to acetonitrile (50 mL) solution of 2.11 g of benzyl 4-(2-chlorophenyl)-4-fluoropiperidine-1-carboxylate, and stirred at room temperature for 30 minutes. 0.77 mL of trimethylchlorosilane and 0.91 g of sodium iodide were further added thereto, and stirred for 10 minutes. Then, the reaction liquid was diluted with ethyl acetate, and back-extracted with 1 M hydrochloric acid. Sodium hydroxide was added to the aqueous layer so that the system was made basic, and then extracted with chloroform, and dried with anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure, and the residue was separated and purified through silica gel column chromatography (chloroform/methanol=10/1) to obtain 992 mg of the entitled compound as a colorless oily substance.

reactant | trimethylchlorosilane | 1.53 mL | C[Si](Cl)(C)C | C3H9ClSi
reactant | sodium iodide | 1.82 g | [I-].[Na+]
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
reactant | benzyl 4-(2-chlorophenyl)-4-fluoropiperidine-1-carboxylate | 2.11 g | ClC1=C(C=CC=C1)C1(CCN(CC1)C(=O)OCC1=CC=CC=C1)F | C19H19ClFNO2
reactant | trimethylchlorosilane | 0.77 mL | C[Si](Cl)(C)C | C3H9ClSi
reactant | sodium iodide | 0.91 g | [I-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-Chlorophenyl)-4-fluoropiperidine | 992 mg | ClC1=C(C=CC=C1)C1(CCNCC1)F | C11H13ClFN
